US09238020B2
Preparation 33: (3-tert-Butoxycarbonylamino-2,2-dimethyl-propyl)-methyl-carbamic acid benzyl ester (QQ)
To a solution of (2,2-Dimethyl-3-methylamino-propyl)-carbamic acid tert-butyl ester (compound PP) (1.05 g, 4.85 mmol) in CHCl3 (10 mL) at ambient temperature was added DIEA (0.84 mL, 4.85 mmol) followed by Cbz-OSu (1.21 g. 4.85 mmol), and the reaction mixture was stirred for 2 h. The reaction mixture then was diluted with CHCl3 (100 mL), and washed with water (2×50 mL) and brine (50 mL). The organic layer was separated and dried over Na2SO4. The removal of the solvents in vacuo yielded crude compound QQ in quantitative yield (1.78 g, 4.85 mmol) as a foamy solid. LC-MS [M+H] 351.6 (C19H30N2O4+H, calc: 351.2). Compound QQ was used directly in the next reaction without further purification.

reactant | (2,2-Dimethyl-3-methylamino-propyl)-carbamic acid tert-butyl ester | 4.85 mmol, 1.05 g | C(C)(C)(C)OC(NCC(CNC)(C)C)=O | C11H24N2O2
reactant | DIEA | 4.85 mmol, 0.84 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Cbz-OSu | 4.85 mmol, 1.21 g | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | (3-tert-Butoxycarbonylamino-2,2-dimethyl-propyl)-methyl-carbamic acid benzyl ester | quantitative yield | C(C1=CC=CC=C1)OC(N(C)CC(CNC(=O)OC(C)(C)C)(C)C)=O | C19H30N2O4
